US07259183B2
Preparation of 4-(1,1-dimethylpropyl)-benzaldehyde
The title compound was synthesized in analogy to 4-cyclopropyl benzaldehyde (described in example S53) using 1-bromo-4-(1,1-dimethylpropyl)-benzene [synthesized in analogy to a procedure described in J. Chem. Res. Miniprint. 12:2701-2733 (1997)] (250 mg, 1.10 mmol), n-BuLi (825 μl, 1.6M solution in hexane, 1.32 mmol) and DMF (427 μl, 5.50 mmol). The isolated residue was purified by flash column chromatography (1:9 ether:pentane) to give 4-(1,1-dimethylpropyl)-benzaldehyde (175 mg, 90%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ 9.99 (s, 1H), 7.82 (d, J=8.5 Hz, 2H), 7.50 (d, J=8.5 Hz, 2H), 1.69 (q, J=7.5 Hz, 2H), 1.32 (s, 6H), 0.68 (t, J=7.5 Hz, 3H).

reactant | 4-cyclopropyl benzaldehyde | C1(CC1)C1=CC=C(C=O)C=C1 | C10H10O
reactant | 1-bromo-4-(1,1-dimethylpropyl)-benzene | BrC1=CC=C(C=C1)C(CC)(C)C | C11H15Br
reactant | n-BuLi | 1.32 mmol, 1.6M, 825 μl | [Li]CCCC
reactant | DMF | 5.50 mmol, 427 μl | CN(C)C=O | C3H7NO
product | 4-(1,1-dimethylpropyl)-benzaldehyde | 175 mg, 90% | CC(CC)(C)C1=CC=C(C=O)C=C1 | C12H16O
